US03962321
Malonic acid (342 g, 3.3 mole) is dissolved in 555 ml of dry pyridine (slightly exothermic). The mixture is cooled in ice water and n-heptaldehyde (342 g, 3.0 mole) is added with stirring. After the addition is complete, the ice bath is removed and the mixture allowed to stand at room temperature for 60 hours, and then heated on a steam bath for 8 hours. The reaction mixture is poured onto an equal volume of water. The organic layer is separated, washed with 900 ml 25% HCl, taken up in benzene, washed with water and dried. Distillation under vacuum gave trans-2-nonenoic acid, b.p. 123°C/2 mm, 297 g, 64% yield.

reactant | Malonic acid | 3.3 mole, 342 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | n-heptaldehyde | 3.0 mole, 342 g | C(CCCCCC)=O | C7H14O
solvent | pyridine | 555 ml | N1=CC=CC=C1 | C5H5N
product | trans-2-nonenoic acid | 64% yield | C(\C=C\CCCCCC)(=O)O | C9H16O2
